US09216173B2
To a flask containing tert-butyl {(1S,2R)-2-[(5-bromo-6-cyanopyridin-3-yl)amino]cyclohexyl}carbamate (PrepEx 1.1) (120 mg, 0.30 mmol), tert-butyl 4-[(6-aminopyridin-2-yl)methyl]piperazine-1-carboxylate (89 mg, 0.30 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (29 mg, 0.061 mmol), Pd2(dba)3 (28 mg, 0.031 mmol) and cesium carbonate (198 mg, 0.609 mmol) was added degassed dioxane (3 mL), and the reaction mixture was heated to 100° C. After 16 hours, the reaction mixture was cooled to room temperature, diluted with ethyl acetate and water, and the organic layer was separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification by chromatography on silica gel (0-60% ethyl acetate/hexanes, linear gradient) afforded tert-butyl 4-[(6-{[5-({(1R,2S)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-2-cyanopyridin-3-yl]amino}pyridin-2-yl)methyl]piperazine-1-carboxylate. MS ESI calc'd for C32H47N8O4 [M+H]+ 607. found 607. 1H NMR (500 MHz, DMSO-d6) δ 8.85 (s, 1H), 7.77 (s, 1H), 7.58 (t, J=7.7 Hz, 1H), 7.52 (s, 1H), 6.94-6.82 (m, 2H), 6.60 (d, J=7.8 Hz, 1H), 6.40 (d, J=7.6 Hz, 1H), 3.74-3.60 (m, 2H), 3.52-3.36 (m, 2H), 3.36-3.24 (m, 4H), 2.34 (s, 4H), 1.75-1.40 (m, 8H), 1.36 (s, 9H), 1.25 (s, 9H).

reactant | tert-butyl {(1S,2R)-2-[(5-bromo-6-cyanopyridin-3-yl)amino]cyclohexyl}carbamate | 0.30 mmol, 120 mg | BrC=1C=C(C=NC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C17H23BrN4O2
reactant | tert-butyl 4-[(6-aminopyridin-2-yl)methyl]piperazine-1-carboxylate | 0.30 mmol, 89 mg | NC1=CC=CC(=N1)CN1CCN(CC1)C(=O)OC(C)(C)C | C15H24N4O2
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.061 mmol, 29 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.609 mmol, 198 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.031 mmol, 28 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-[(6-{[5-({(1R,2S)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-2-cyanopyridin-3-yl]amino}pyridin-2-yl)methyl]piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)NC1=CC=CC(=N1)CN1CCN(CC1)C(=O)OC(C)(C)C | C32H46N8O4
